US08133886B2
Step 3.6: 6-(6-Oxo-2-thioxo-1,2,3,6-tetrahydro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid
3.46 g (45.4 mMol) thiourea are added to a solution of 29.7 mMol 6-(3-ethoxycarbonyl-2-oxo-propyl)-naphthalene-1-carboxylic acid methyl ester in 25 ml tert-butanol. Then 13.3 g (119 mMol) potassium tert-butyrate are added (exothermic). After 50 min, the mixture is heated for 4.5 h in an oil bath of 100° C. Cooling to rt gives an almost solid mixture, which is redissolved by addition of 59 ml of a 1 M aq. solution of LiOH and stirring during 40 min. This solution is diluted with 500 ml of a 0.33 M solution of NaOH and EtOAc. The organic phase is separated off, washed with 300 ml of a 0.33 M solution of NaOH and discarded. The aq. phases are acidified by addition of 2 N HCl (pH=3), the precipitated product filtered off, washed with 0.001 N HCl and dried in vacuo at 80° C. The crude material is stirred in a boiling mixture of 0.6 l CH3CN, 60 ml EtOAc, 120 ml MeOH and 120 ml THF. Filtration of the hot suspension then leads to the title compound: m.p.: 334-337° C.

reactant | thiourea | 45.4 mMol, 3.46 g | NC(=S)N | CH4N2S
reactant | 6-(3-ethoxycarbonyl-2-oxo-propyl)-naphthalene-1-carboxylic acid methyl ester | 29.7 mMol | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(CC(=O)OCC)=O | C18H18O5
reactant | LiOH | [Li+].[OH-]
solvent | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
solvent | NaOH | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6-Oxo-2-thioxo-1,2,3,6-tetrahydro-pyrimidin-4-ylmethyl)-naphthalene-1-carboxylic acid | O=C1C=C(NC(N1)=S)CC=1C=C2C=CC=C(C2=CC1)C(=O)O | C16H12N2O3S
